US04474874
Gallic acid is reacted with acetic anhydride or acetic chloride in the presence of bases, such as NaOH (J. Chem. Soc., 2495 (1931)), Na2CO3, or pyridine, to form 3,4,5-triacetoxybenzoic acid, which is then treated with thionyl chloride or phosphorus trichloride to form the corresponding acid chloride. This 3,4,5-triacetoxybenzoic acid chloride is reacted with a suitable amine compound in the presence of bases, such as pyridine and triethylamine, and thereafter, treated with sodium acetate, sodium hydroxide, hydrochloric acid or the like in methanol or ethanol to form the desired gallic acid amide.

reactant | Gallic acid | C(C1=CC(O)=C(O)C(O)=C1)(=O)O | C7H6O5
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic chloride | C(C)(=O)Cl | C2H3ClO
reactant | NaOH | [OH-].[Na+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 3,4,5-triacetoxybenzoic acid | C(C)(=O)OC=1C=C(C(=O)O)C=C(C1OC(C)=O)OC(C)=O | C13H12O8
